US04338449
4-(2-Fluorobenzoyl)-2-methylamino-5,5-dimethyl-4,5-dihydro-1,3,4-thiadiazole
A 42 g. portion of 4-methylthiosemicarbazide was reacted with 400 ml. of acetone, and then with 32 ml. of pyridine and 63.6 g. of 2-fluorobenzoyl chloride to prepare 66.5 g. of the desired product, m.p. 136°-140°.

reactant | 4-methylthiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | acetone | CC(=O)C | C3H6O
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(2-Fluorobenzoyl)-2-methylamino-5,5-dimethyl-4,5-dihydro-1,3,4-thiadiazole | FC1=C(C(=O)N2N=C(SC2(C)C)NC)C=CC=C1 | C12H14FN3OS
